US04563449
To a solution of methyl 2-allyloxyimino-2-(5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (37.3 g) in tetrahydrofuran (106 ml) was added 1N-aqueous sodium hydroxide (234 ml) and the mixture was stirred for 2 hours at ambient temperature. The reaction mixture was adjusted to pH 5 with 6N hydrochloric acid and washed with ethyl acetate. The aqueous layer was separated out, adjusted to pH 1.0 with 6N hydrochloric acid and extracted with ethyl acetate. The extract was washed with brine, dried over magnesium sulfate and evaporated. The residue dissolved in methanol (50 ml) was added dropwise to a solution of sodium acetate (8.7 g) in methanol (90 ml) at ambient temperature under stirring, which was continued for one hour at the same temperature. To the mixture was added ethyl acetate (200 ml) and the resulting precipitate was collected by filtration, washed with ethyl acetate and dried to give sodium 2-allyloxyimino-2-(5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate (syn isomer) (32.6 g), mp. 168° to 173° C. (dec).

reactant | methyl 2-allyloxyimino-2-(5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate | 37.3 g | C(C=C)ON=C(C(=O)OC)C1=NSC(=N1)NP(=O)(OC)OC | C10H15N4O6PS
reactant | sodium hydroxide | 234 ml | [OH-].[Na+]
reactant | hydrochloric acid | 6N | Cl | ClH
solvent | tetrahydrofuran | 106 ml | O1CCCC1 | C4H8O
product | sodium 2-allyloxyimino-2-(5-dimethoxyphosphorylamino-1,2,4-thiadiazol-3-yl)acetate | 32.6 g | C(C=C)ON=C(C(=O)[O-])C1=NSC(=N1)NP(=O)(OC)OC.[Na+] | InChI=1S/C9H13N4O6PS.Na/c1-4-5-19-11-6(8(14)15)7-10-9(21-13-7)12-20(16,17-2)18-3;/h4H,1,5H2,2-3H3,(H,14,15)(H,10,12,13,16);/q;+1/p-1
